US07759397B2
a.12.1 1-Methyl-4-phenyl-1H-pyrazole
1 g of 2-phenylmalonaldehyde (6.75 mmol) were dissolved in 25 ml of ethanol. 0.36 ml of N-methyl-hydrazine (6.75 mmol) were added, the reaction mixture was stirred under reflux for 4 h, the solvent evaporated under reduced pressure to yield 1.09 g of the product.

reactant | 2-phenylmalonaldehyde | 6.75 mmol, 1 g | C1(=CC=CC=C1)C(C=O)C=O | C9H8O2
reactant | N-methyl-hydrazine | 6.75 mmol, 0.36 ml | CNN | CH6N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-Methyl-4-phenyl-1H-pyrazole | 1.09 g | CN1N=CC(=C1)C1=CC=CC=C1 | C10H10N2
